US05378690
9.59 ml (69.0 mmole) of triethylamine and 11.0 g (69.0 mmole) of a pyridine/sulfur trioxide complex were added to a solution of 5.0 g (23.0 mmole) of N-(t-butoxycarbonyl)-L-isoleucinol in 50 ml of dimethyl sulfoxide, and the mixture was stirred at room temperature for 15 minutes. At the end of this time, the reaction mixture was poured onto ice-water, and extracted with diethyl ether. The organic extract was washed with a 5% w/v aqueous solution of citric acid, with a 5% w/v aqueous solution of sodium bicarbonate and with water, in that order. It was then dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure, to give 5.0 g of N-(t-butoxycarbonyl)-L-leucinal as an oily substance.

reactant | triethylamine | 69.0 mmole, 9.59 ml | C(C)N(CC)CC | C6H15N
reactant | N-(t-butoxycarbonyl)-L-isoleucinol | 23.0 mmole, 5.0 g | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)CO | C11H23NO3
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | N-(t-butoxycarbonyl)-L-leucinal | 5.0 g | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C=O | C11H21NO3
